US08710236B2
To a stirring solution of 4-[(4-tert-butyl-phenyl)-(4-cyclohexylmethoxy-phenylcarbamoyl)-methylsulfanyl]-benzoic acid methyl ester (0.33 g, 0.61 mmol) in THF (8 mL), methanol (6 mL) and water (2 mL) at room temperature was added LiOH (0.145 g, 6.1 mmol). The reaction mixture was stirred at room temperature for 16 hr. The mixture was acidified with 1M aqueous HCl and extracted with ethyl acetate. The solution was washed with water and saturated sodium chloride and dried over magnesium sulfate. The solvent was removed under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with MeOH—CH2Cl2 (5:95) to afford 4-[(4-tert-butyl-phenyl)-(4-cyclohexylmethoxy-phenylcarbamoyl)-methylsulfanyl]-benzoic acid as a white solid (0.24 g, 74%): 1H NMR (300 MHz, DMSO-d6): δ 10.33 (s, 1H), 7.89 (d, J=8.4 Hz, 2H), 7.59 (m, 8H), 6.86 (d, J=9.0 Hz, 2H), 5.49 (s, 1H), 3.75 (d, J=6.3 Hz, 2H), 1.69 (m, 6H), 1.27 (s, 9H), 1.24 (m, 3H), 1.08 (m, 2H). Then a mixture of 4-[(4-tert-butyl-phenyl)-(4-cyclohexylmethoxy-phenylcarbamoyl)-methylsulfanyl]-benzoic acid (240 mg, 0.45 mmol), HOBt (104 mg, 0.68 mmol), EDCI (130 mg, 0.68 mmol), taurine (85 mg, 0.68 mmol) and diisopropylethylamine (0.24 mL, 1.35 mmol) in DMF (15 mL) was stirred at 23° C. for a period of 16 h. The mixture was concentrated under reduced pressure and the residue partitioned between ethyl acetate and aqueous 1M HCl. The organic phase was washed (water, sat NaCl) and dried over magnesium sulfate. The solvent was removed under reduced pressure. The crude product was purified by chromatographed on reverse phase silica gel (C18) using a gradient of acetonitrile:water (20% to 80% in acetonitrile). Evaporation of the product-containing fractions afforded 150 mg of 2-{4-[(4-tert-butyl-phenyl)-(4-cyclohexylmethoxy-phenylcarbamoyl)-methylsulfanyl]-benzoylamino}-ethanesulfonic acid as a white solid. 1H NMR (300 MHz, DMSO-d6): δ 10.33 (s, 1H), 8.49 (m, 1H), 7.73 (d, J=8.4 Hz, 2H), 7.45 (m, 8H), 6.86 (d, J=9.0 Hz, 2H), 5.41 (s, 1H), 3.72 (d, J=6.3 Hz, 2H), 3.49 (m, 2H), 2.57 (m, 2H), 1.69 (m, 6H), 1.27 (s, 9H), 1.24 (m, 3H), 1.08 (m, 2H). LC-MS m/z=639.3 [C34H42N2O6S2+H]+; Anal Calcd for (C34H42N2O6S2+2.5H2O): C, 59.71; H, 6.93; N, 4.10. Found: C, 59.70; H, 6.16; N, 4.20.

reactant | 4-[(4-tert-butyl-phenyl)-(4-cyclohexylmethoxy-phenylcarbamoyl)-methylsulfanyl]-benzoic acid | 0.45 mmol, 240 mg | C(C)(C)(C)C1=CC=C(C=C1)S(C1=CC=C(C(=O)O)C=C1)(C)C(NC1=CC=C(C=C1)OCC1CCCCC1)=O | C32H39NO4S
reactant | HOBt | 0.68 mmol, 104 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.68 mmol, 130 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | taurine | 0.68 mmol, 85 mg | NCCS(=O)(=O)O | C2H7NO3S
reactant | diisopropylethylamine | 1.35 mmol, 0.24 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-{4-[(4-tert-butyl-phenyl)-(4-cyclohexylmethoxy-phenylcarbamoyl)-methylsulfanyl]-benzoylamino}-ethanesulfonic acid | 150 mg | C(C)(C)(C)C1=CC=C(C=C1)S(C1=CC=C(C(=O)NCCS(=O)(=O)O)C=C1)(C)C(NC1=CC=C(C=C1)OCC1CCCCC1)=O | C34H44N2O6S2
